US07943652B2
Step a: Preparation of (2-tert-butyl-6-nitro-1H-indol-3-yl)-acetaldehyde
To a solution of 2-tert-butyl-3-(2,2-dimethoxy-ethyl)-6-nitro-1H-indole (0.80 g, 2.6 mmol) in methylene chloride (10 mL) was added trifluoroacetic acid (5 mL, 50%) at 0° C. and the resulting solution was stirred at room temperature for 6 h. Saturated sodium bicarbonate was added until pH>7. The aqueous layer was extracted with methylene chloride several times. The combined organic layers were dried over sodium sulfate, filtrated, and concentrated in vacuo. The residue was purified via silica gel column chromatography to give the title compound (0.62 g, 91%). LCMS (m/z): 261.0 (M+1).

reactant | 2-tert-butyl-3-(2,2-dimethoxy-ethyl)-6-nitro-1H-indole | 2.6 mmol, 0.80 g | C(C)(C)(C)C=1NC2=CC(=CC=C2C1CC(OC)OC)[N+](=O)[O-] | C16H22N2O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (2-tert-butyl-6-nitro-1H-indol-3-yl)-acetaldehyde | 0.62 g, 91% | C(C)(C)(C)C=1NC2=CC(=CC=C2C1CC=O)[N+](=O)[O-] | C14H16N2O3
